US07022725B2
To a solution of diethyl malonate (3.38 g) in tetrahydrofuran (40 ml) was gradually added sodium hydride (60%, oil, 770 mg) at 0° C. The mixture was stirred for 10 min and a solution of 4-chloromethyl-5-(2,4-difluorophenyl)isoxazole (2.20 g) in tetrahydrofuran (40 ml) was added dropwise at 0° C. The mixture was stirred at room temperature for 15 hr. The reaction mixture was acidified by pouring into 2N hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was concentrated, and the residue was dissolved in a mixture of 6N hydrochloric acid (40 ml) and acetic acid (60 ml) and heated under reflux for 8 hr. The reaction mixture was concentrated, and water was added to the residue. The obtained colorless crystals were filtrated, dried and recrystallized from ethyl acetate-hexane to give a colorless prism (2.10 g, yield 87%) of 3-[5-(2,4-difluorophenyl)-4-isoxazolyl]propionic acid. melting point: 125–126° C.

reactant | diethyl malonate | 3.38 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 770 mg | [H-].[Na+]
reactant | 4-chloromethyl-5-(2,4-difluorophenyl)isoxazole | 2.20 g | ClCC=1C=NOC1C1=C(C=C(C=C1)F)F | C10H6ClF2NO
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-[5-(2,4-difluorophenyl)-4-isoxazolyl]propionic acid | 2.10 g, yield 87% | FC1=C(C=CC(=C1)F)C1=C(C=NO1)CCC(=O)O | C12H9F2NO3
